US07109357B2
To a solution of (R)-2-(2-ethoxy-5-oxo-2,5-dihydrofuran-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (X, R1=Et) (0.14 g, 0.41 mmol) (1H-NMR shows ˜8:2 syn:anti epimers) and lutidine (0.48 mL, 4.1 mmol) in dichloromethane (5 mL) at room temperature under nitrogen was dropwise added trimethylsilyltrifluoromethane-sulfonate (0.48 mL, 2.46 mmol). The reaction was stirred for 0.5 h, then was treated with saturated sodium bicarbonate, was extracted with three portions of dichloromethane, was dried (sodium sulfate), and was evaporated. To the crude intermediate was added 2-benzyloxycarbonylamino-3,3-dimethylbutyric acid (0.12 g, 0.45 mmol) in dichloromethane (5 mL), EDC (0.10 g, 0.51 mmol) and HOBT (0.07 g, 0.51 mmol). The resulting mixture was stirred at room temperature under nitrogen for 3 days. The reaction was diluted with ethyl acetate, was washed with 10% potassium bisulfate, saturated sodium bicarbonate and brine, was dried (sodium sulfate) and was evaporated. Purification by flash chromatography (SiO2) eluted with 1:1 ethyl acetate hexanes provided {1-[2-(2-ethoxy-5-oxo-tetrahydrofuran-3-yl carbamoyl)-pyrrolidine-1-carbonyl]-2,2-dimethylpropyl}carbamic acid benzyl ester (0.12 g, 59% yield) as a white foam. 1H-NMR (500 MHz, CDCl3) δ 7.43 (br d, J=7.7 Hz, 1H), 7.28 (s, 5H), 5.40 (m, 2H), 5.02 (AB q, J=12.1, 31.0 Hz, 2H), 4.55 (m, 2H), 4.29 (d, J=9.6 Hz, 1H), 4.23 (m, 0.2H), 3.85 (m, 0.8H), 3.73 (m, 1H), 3.58 (m, 2H), 2.90 (m, 0.2H), 2.74 (dd, J=17.0, 8.4 Hz, 0.8H), 2.30 (m, 2H), 2.05 (m, 1H), 1.90 (m, 1H), 1.80 (m, 1H), 1.20 (t, J=7.0 Hz, 2.4H), 1.15 (t, J=7.0 Hz, 0.6H), 0.93 (s, 9H) ppm.

reactant | (R)-2-(2-ethoxy-5-oxo-2,5-dihydrofuran-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.41 mmol, 0.14 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(NC=1C(OC(C1)=O)OCC)=O | C16H24N2O6
reactant | lutidine | 4.1 mmol, 0.48 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trimethylsilyltrifluoromethane-sulfonate | 2.46 mmol, 0.48 mL | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-benzyloxycarbonylamino-3,3-dimethylbutyric acid | 0.45 mmol, 0.12 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C(C)(C)C | C14H19NO4
reactant | EDC | 0.51 mmol, 0.10 g
reactant | HOBT | 0.51 mmol, 0.07 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {1-[2-(2-ethoxy-5-oxo-tetrahydrofuran-3-yl carbamoyl)-pyrrolidine-1-carbonyl]-2,2-dimethylpropyl}carbamic acid benzyl ester | 0.12 g, 59% yield | C(C1=CC=CC=C1)OC(NC(C(C)(C)C)C(=O)N1C(CCC1)C(NC1C(OC(C1)=O)OCC)=O)=O | C25H35N3O7
